US08404694B2
To a mixture of 2-methoxyethanol (0.664 mL, 8.41 mmol) and 3-amino-5-hydroxypyrazole (1.00 g, 10.1 mmol) in C6H6 (50 mL) at RT was added cyanomethylenetri-n-butylphosphorane (2.03 g, 8.41 mmol). The mixture was heated to 90° C. in a pressure vessel. After 16 hrs, the solvent was removed in vacuo. The residue was taken up in CH2Cl2 and adsorbed onto silica gel prior to purification by silica gel chromatography using 2-10% MeOH in CH2Cl2 with 1% NH4OH to afford 5-(2-methoxyethoxy)-1H-pyrazol-3-amine as a yellow oil. MH+=158.2.

reactant | 2-methoxyethanol | 8.41 mmol, 0.664 mL | COCCO | C3H8O2
reactant | 3-amino-5-hydroxypyrazole | 10.1 mmol, 1.00 g | NC1=NNC(=C1)O | C3H5N3O
reactant | cyanomethylenetri-n-butylphosphorane | 8.41 mmol, 2.03 g | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | C6H6 | 50 mL | C1=CC=CC=C1 | C6H6
product | 5-(2-methoxyethoxy)-1H-pyrazol-3-amine | COCCOC1=CC(=NN1)N | C6H11N3O2
